US07981903B2
A thick white slurry of 5-chloro-8-fluoro-3-[(4-methylphenyl)sulfonyl]pyrrolo[2′,3′:4,5]pyrimido[6,1-b]quinazolin-7(3H)-one hydrogen chloride (400 mg, 0.835 mmol) and 5-(methyloxy)-1-[(methyloxy)acetyl]-2,3-dihydro-1H-indol-6-amine (197 mg, 0.835 mmol) in THF (15 mL) was heated at 80° C. After 17 h a methylamine solution (2 N in THF, 4.17 mL, 8.35 mmol) was added. The reaction mixture was maintained at rt for 22 h, then filtered, the solid washed with THF. The filtrate was concentrated onto Celite and purified by silica gel chromatography using 1-10% MeOH (containing 0.2% NH3)/CH2Cl2. The crude product was dissolved in dioxane (15 mL) and a 1N KOH solution (4.38 mL, 4.38 mmol), then heated at 80° C. After 3 h the reaction mixture was allowed to cool somewhat, diluted with EtOAc (100 mL) and a 2N NaOH solution (50 mL). The organic layer was washed with a 2N NaOH solution (2×50 mL), concentrated onto Celite and purified by silica gel chromatography using 1-10% MeOH (containing 0.2% NH3)/CH2Cl2 to obtain 2-fluoro-N-methyl-6-{[2-({5-(methyloxy)-1-[(methyloxy)acetyl]-2,3-dihydro-1H-indol-6-yl}amino)-1H-pyrrolo[2,3-d]pyrimidin-4-yl]amino}benzamide as a yellow solid (116 mg). 1H NMR (400 MHz, DMSO-d6) δ ppm 2.80 (d, J=4.39 Hz, 3H), 3.13 (t, J=8.24 Hz, 2H), 3.79 (s, 3H), 4.04 (t, J=8.24 Hz, 2H), 4.17 (s, 2H), 6.25-6.34 (m, 1H), 6.84-7.04 (m, 3H), 7.27-7.40 (m, 1H), 7.58 (s, 1H), 8.35 (d, J=8.24 Hz, 1H), 8.50-8.61 (m, 1H), 8.68 (s, 1H), 10.16 (s, 1H), 11.30 (s, 1H), a Me-O signal with 3 protons is missing, may overlap with water peak in sample; ESIMS (M+H)+=520.16.

reactant | 5-chloro-8-fluoro-3-[(4-methylphenyl)sulfonyl]pyrrolo[2′,3′:4,5]pyrimido[6,1-b]quinazolin-7(3H)-one hydrogen chloride | 0.835 mmol, 400 mg | Cl.ClC1=NC2=C(C3=NC4=CC=CC(=C4C(N31)=O)F)C=CN2S(=O)(=O)C2=CC=C(C=C2)C
reactant | 5-(methyloxy)-1-[(methyloxy)acetyl]-2,3-dihydro-1H-indol-6-amine | 0.835 mmol, 197 mg | COC=1C=C2CCN(C2=CC1N)C(COC)=O | C12H16N2O3
reactant | methylamine | 8.35 mmol, 2 N, 4.17 mL | CN | CH5N
reactant | KOH | 4.38 mmol, 1N, 4.38 mL | [OH-].[K+]
reactant | NaOH | 2N, 50 mL | [OH-].[Na+]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 2-fluoro-N-methyl-6-{[2-({5-(methyloxy)-1-[(methyloxy)acetyl]-2,3-dihydro-1H-indol-6-yl}amino)-1H-pyrrolo[2,3-d]pyrimidin-4-yl]amino}benzamide | 116 mg | FC1=C(C(=O)NC)C(=CC=C1)NC1=C2C(NC(=N1)NC1=C(C=C3CCN(C3=C1)C(COC)=O)OC)=NC=C2 | C26H26FN7O4
